US07759362B2
The preparation comprises dissolving ethyl 1-cyclopropyl-6,7-difluoro-8-difluoromethoxyl-1,4-dihydro-4-oxoquinoline-3-carboxylate (target product of embodiment 3, 1.0 g, 2.8 mmol) in concentrated sulfuric acid (10 mL), slowly adding potassium nitrate (2.0 g, 19.8 mmol), reacting for 1 h at 40° C., cooling down to room temperature, charging the reaction mixture into ice water (100 mL), stirring, filtering, treating obtained filter cake with ethanol (20 mL), refluxing for 0.5 h, cooling down to room temperature, filtering, and drying obtained filter cake to give ethyl 1-cyclopropyl-6,7-difluoro-8-difluoromethoxyl-5-nitro-1,4-dihydro-4-oxoquinoline-3-carboxylate (0.5 g, 45.5%).

reactant | ethyl 1-cyclopropyl-6,7-difluoro-8-difluoromethoxyl-1,4-dihydro-4-oxoquinoline-3-carboxylate | 2.8 mmol, 1.0 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC(F)F)F)F)=O)C(=O)OCC | C16H13F4NO4
reactant | potassium nitrate | 19.8 mmol, 2.0 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
product | ethyl 1-cyclopropyl-6,7-difluoro-8-difluoromethoxyl-5-nitro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.5 g, 45.5% | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)OC(F)F)F)F)[N+](=O)[O-])=O)C(=O)OCC | C16H12F4N2O6
